US04965270
To a solution of (S)-1,4-dibenzyloxy-2-hydroxybutane (5 g, 17.5 mmol) in dry tetrahydrofuran (100 ml) was added triphenylphosphine (5.1 g, 19.2 mmol) and N-hydroxyphthalimide (3.1 g, 19.2 mmol). The solution was treated dropwise with diethyl azadicarboxylate (3 ml, 19.2 mmol). A red colouration appeared, gradually fading and the solution became warm. The solution was stirred at room temperature for 48 hours and the solvent removed under vacuum. The residue was dissolved in ethylacetatehexane 1:1 (100 ml) and refrigerated. A white solid crystallised out and was filtered off. The solution was evaporated to dryness and the residue chromatographed on silica, eluting with ethylacetate-hexane 1:2 to give (R)-N-(1,4-dibenzyloxybut-2-oxy)phthalimide (4.6 g, 61%), [α]D25 +16.4° (c 1.3 in ethanol); IR: υmax (film) 3090, 3060, 3030, 2930, 2860, 1810, 1790, 1730, 1610, 1495, 1465, 1450, 1370, 1240, 1190, 1120, 1100, 1080, 1030, 1015, 980, 880, 785, 740, 700 cm-1 ; 1H NMR: δH (CDCl3) 2.1 (2H, m, CH2), 3.75 (4 H, m, 2×CH2), 4.5 (5H, m, 2×CH2 plus CH), 7.1-7.9 (14 H, m, 2×C6H5 plus C6H4); m/z (FAB) MH+ 432.

reactant | (S)-1,4-dibenzyloxy-2-hydroxybutane | 17.5 mmol, 5 g | C(C1=CC=CC=C1)OC[C@H](CCOCC1=CC=CC=C1)O | C18H22O3
reactant | triphenylphosphine | 19.2 mmol, 5.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 19.2 mmol, 3.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-N-(1,4-dibenzyloxybut-2-oxy)phthalimide | 4.6 g, 61% | C(C1=CC=CC=C1)OC[C@@H](CCOCC1=CC=CC=C1)ON1C(C=2C(C1=O)=CC=CC2)=O | C26H25NO5
